US05298652
A mixture of 2.0 g (14.7 mmol) of 3-hydroxyacetophenone, 5.9 g (17.6 mmol) of 1-bromooctadecane and 4.1 g (29.4 mmol) of anhydrous potassium carbonate in 35 ml of anhydrous DMF was stirred and heated at 80° for 45 hours. The solvent was removed under high vacuum, the residue was treated with 50 ml of 0.5 N HCl and the resultant solid was filtered and recrystallized from methanol to give 3.35 g (59% yield, mp 50°-52°) of 3-octadecyloxyacetophenone.

reactant | 3-hydroxyacetophenone | 14.7 mmol, 2.0 g | CC(=O)C=1C=CC=C(C1)O | C8H8O2
reactant | 1-bromooctadecane | 17.6 mmol, 5.9 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | potassium carbonate | 29.4 mmol, 4.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 3-octadecyloxyacetophenone | 3.35 g, 59% yield | CCC(CCCCCCCCCCCCCCC)OCC(=O)C1=CC=CC=C1 | C26H44O2
